US05817828
250 ml of toluene and 0.1 ml of aqueous 12.5 M sodium hydroxide solution were added to a mixture of 15.69 g of ethyl 3-amino-4-pyrazolecarboxylate, 24.34 g of (2-bromoethyl)benzene, 2.54 g of Adogen 464 and 27.74 g of potassium carbonate, and heated under reflux for 2.5 hours. The reaction solution was washed with 200 ml of water and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was subjected to silica gel column chromatography (n-hexane--ethyl acetate=2:1→1:1→1:2) to obtain 16.94 g of 1-(2-phenylethyl)-3-amino-4-ethoxycarbonylpyrazole as colorless crystals.

reactant | sodium hydroxide | 12.5 M | [OH-].[Na+]
reactant | ethyl 3-amino-4-pyrazolecarboxylate | 15.69 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | (2-bromoethyl)benzene | 24.34 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 27.74 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Adogen 464 | 2.54 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-phenylethyl)-3-amino-4-ethoxycarbonylpyrazole | 16.94 g | C1(=CC=CC=C1)CCN1N=C(C(=C1)C(=O)OCC)N | C14H17N3O2
